US07196080B2
To a DMF (5 ml) solution of 213 mg of 6-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyridin-3-ol were added 81 mg of (2-chloroethyl)dimethylamine hydrochloride and 43 mg of 60% sodium hydride under ice cooling. After 1 hour of stirring at an oil bath temperature of 70° C., water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform to chloroform-methanol) and thus obtained product (110 mg) was dissolved in ethanol and converted into its oxalate salt by adding 40 mg of oxalic acid. Thereafter, the salt was recrystallized from ethanol to obtain 81 mg of 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-[5-(2-dimethylaminoethoxy)-2-pyridyl]piperazine oxalate as colorless crystals.

reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 6-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyridin-3-ol | 213 mg | COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=CC=C(C=N1)O | C23H24N4O4
reactant | (2-chloroethyl)dimethylamine hydrochloride | 81 mg | Cl.ClCCN(C)C
reactant | sodium hydride | 43 mg | [H-].[Na+]
reactant | water | O | H2O
product | 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]-4-[5-(2-dimethylaminoethoxy)-2-pyridyl]piperazine oxalate | 81 mg | C(C(=O)O)(=O)O.COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCN(CC1)C1=NC=C(C=C1)OCCN(C)C | InChI=1S/C27H33N5O4.C2H2O4/c1-30(2)16-17-36-21-9-11-26(28-19-21)31-12-14-32(15-13-31)27(33)23-7-5-6-22(29-23)20-8-10-24(34-3)25(18-20)35-4;3-1(4)2(5)6/h5-11,18-19H,12-17H2,1-4H3;(H,3,4)(H,5,6)
